US08258144B2
A mixture of 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)benzamide (85 mg, 0.19 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (105 mg, 0.480 mmol) and trimethylsilyl chloride (0.030 mL, 0.24 mmol) in dioxane (1 mL) and nBuOH (1 mL) was stirred at 110° C. for 72 h. It was concentrated in vacuo. The residue was purified by HPLC to give 3-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)benzamide (40 mg).

reactant | 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)benzamide | 0.19 mmol, 85 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC=2C=C(C(=O)N)C=CC2 | C20H16ClN5O3S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.480 mmol, 105 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 0.24 mmol, 0.030 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | nBuOH | 1 mL | C(CCC)O | C4H10O
product | 3-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)benzamide | 40 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC=2C=C(C(=O)N)C=CC2 | C32H32N8O4S
